US07214798B2
13.4. 3-{2-[1-(6-Isobutyl-2-pyridyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione
2 g (5.43 mmol) of 3-{2-[1-(6-bromo-2-pyridyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione, prepared in step 13.3, and 0.20 g (0.271 mmol) of dichlorobis(triphenylphosphine)palladium (Pd(PPh3)2Cl2) suspended in 10 ml of tetrahydrofuran are introduced under an inert atmosphere. 22 ml (10.80 mmol) of a solution (0.5 M) of bromo(isobutyl)zinc in tetrahydrofuran are then added. Stirring is continued at room temperature for 17 hours. The reaction mixture is poured into water and ethyl acetate. The phases are separated by settling, the aqueous phase is extracted twice with ethyl acetate, the combined organic phases are dried over sodium sulfate and the filtrate is concentrated under reduced pressure. The residue thus obtained is purified by chromatography on silica gel, eluting with a 20/80 mixture of ethyl acetate and cyclohexane.

reactant | 3-{2-[1-(6-bromo-2-pyridyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione | 5.43 mmol, 2 g | BrC1=CC=CC(=N1)N1CCC(CC1)CCN1C(OCC1=O)=O | C15H18BrN3O3
reactant | bromo(isobutyl)zinc | Br[Zn]CC(C)C
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium | 0.271 mmol, 0.20 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-{2-[1-(6-Isobutyl-2-pyridyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione | C(C(C)C)C1=CC=CC(=N1)N1CCC(CC1)CCN1C(OCC1=O)=O | C19H27N3O3
